### PR TITLE
feat(Data/Finsupp/Fin): Add `Finsupp` operations on `Fin` tuple

### PR DESCRIPTION
**Pull request by quangvdao**
This PR adds more analogues of operations on `Fin` tuples to the `Finsupp` setting. Before, there were only `Finsupp.cons` and `Finsupp.tail`. Now there are also `Finsupp.snoc`, `Finsupp.insertNth`, `Finsupp.init`, and `Finsupp.removeNth`. These all come with supporting lemmas.

I also removed the porting comment about `succAboveCases` in `Data/Fin/Basic`, and added a lemma about `succAbove` in `Data/Fin/Tuple/Basic`.

---

- [x] depends on: #20361
- [x] depends on: #20771 
- [x] depends on: #20770 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Fin/Tuple/Basic.lean [hunk 1]
```diff
@@ -791,6 +791,10 @@ lemma exists_iff_succAbove {P : Fin (n + 1) → Prop} (p : Fin (n + 1)) :
     · exact .inr ⟨_, hi⟩
   mpr := by rintro (h | ⟨i, hi⟩) <;> exact ⟨_, ‹_›⟩
 
+/-- Analogue of `Fin.eq_zero_or_eq_succ` for `succAbove`. -/
+theorem eq_self_or_eq_succAbove (i j : Fin (n + 1)) : i = j ∨ (∃ k, i = j.succAbove k) :=
```
Comment (YaelDillies) [inline Mathlib/Data/Fin/Tuple/Basic.lean:795]: Please always try calling `p` the first argument to `succAbove`, as its the **p**ivot and doesn't play the same role at all as the second argument.
```suggestion
theorem eq_self_or_eq_succAbove (p i : Fin (n + 1)) : i = p ∨ ∃ j, i = p.succAbove j :=
```
Here and everywhere else

File: Mathlib/Data/Finsupp/Fin.lean [hunk 2]
```diff
@@ -22,27 +26,124 @@ noncomputable section
...
+  simp only [removeNth, Fin.removeNth_last, equivFunOnFinite_symm_apply_toFun, init]
+
+/-- Updating the `i`-th entry does not affect removing the `i`-th entry. -/
+@[simp]
+theorem removeNth_update : removeNth i (update s i y) = removeNth i s := by
+  simp only [removeNth, update, coe_mk, EmbeddingLike.apply_eq_iff_eq]
+  convert Fin.removeNth_update i y (⇑s)
+
+@[simp]
+theorem tail_apply : tail s j = s (j.succ) := rfl
```
Comment (YaelDillies) [inline Mathlib/Data/Finsupp/Fin.lean:77]:
```suggestion
theorem tail_apply : tail s j = s j.succ := rfl
```

**Review by YaelDillies — COMMENTED** [review]
What's your use case?

**Comment by quangvdao** [comment]
My use case is a bit indirect; it's in generalizing `MvPolynomial.finSuccEquiv` to work on arbitrary pivot:
```
def MvPolynomial.finSuccEquiv' (i : Fin (n + 1)) :
    MvPolynomial (Fin (n + 1)) R ≃ₐ[R] Polynomial (MvPolynomial (Fin n) R) :=
  (renameEquiv R (_root_.finSuccEquiv' i)).trans (optionEquivLeft R (Fin n))
```

As I tried to prove theorems about this definition, I realized I needed the `Finsupp` definition of `insertNth`. And from there I figured might as well add all the variants.

**Comment by YaelDillies** [comment]
Ah, then may I suggest that you generalise `finSuccEquiv` even more? The most general version wouldn't mention `Fin` at all, but rather two types `α` and `β`, a map `f : α → β` as well as an element `b : β` and a proof that `Set.range f = {b}ᶜ`

**Comment by quangvdao** [comment]
I see, yeah I can do that. Is there a name for this set-theoretic equivalence already in Mathlib?

**Comment by YaelDillies** [comment]
Not sure, no. Also please ask people's opinions on Zulip before you actually try implementing my idea

**Comment by quangvdao** [comment]
I've fixed the pivot variable naming. To your point about generalizing `MvPolynomial.finSuccEquiv`, I think that there is already a good generalization available: 
```
MvPolynomial.optionEquivLeft: MvPolynomial (Option S₁) R ≃ₐ[R] Polynomial (MvPolynomial S₁ R)
```
and in fact `MvPolynomial.finSuccEquiv` uses this definition.

**Comment by YaelDillies** [comment]
Yes, I am aware of this `Option` thinb, but somehow you still have to identify `Fin (n + 1)` with `Option (Fin n)` in various ways to get what you want, meaning that you would still need the extra definitions in this PR. I was hoping we caould bypass all of that

**Review by YaelDillies — COMMENTED** [review]
For ease of reviewing, could you split off to a dependency PR all lemmas that don't rely on those new definitions?

File: Mathlib/Data/Finsupp/Fin.lean [hunk 3]
```diff
@@ -23,27 +27,124 @@ noncomputable section
...
+/-- Updating the `i`-th entry does not affect removing the `i`-th entry. -/
+@[simp]
+theorem removeNth_update : removeNth p (update s p y) = removeNth p s := by
+  simp only [removeNth, update, coe_mk, EmbeddingLike.apply_eq_iff_eq]
+  convert Fin.removeNth_update p y (⇑s)
+
+@[simp]
+theorem tail_apply : tail s i = s i.succ := rfl
+
+@[simp]
```
Comment (quangvdao) [inline Mathlib/Data/Finsupp/Fin.lean:80]: Sorry for the delay.

@YaelDillies: the only new lemmas that use the existing definitions (`Finsupp.{tail/cons}`) are these two, which are about the relationship between `tail` and `update`. The rest are dependent on the new definitions (`Finsupp.{init/snoc/removeNth/insertNth}`).

Because of this, I'm not very sure if a dependent PR with two lemmas is of much use (though I'd be glad to do it if it helps).

File: Mathlib/Data/Finsupp/Fin.lean [hunk 4]
```diff
@@ -23,27 +27,124 @@ noncomputable section
...
+  convert Fin.tail_update_zero (⇑s) y
+
+@[simp]
+theorem tail_update_succ : tail (update s i.succ y) = update (tail s) i y := by
+  ext a
+  have : ⇑(equivFunOnFinite.symm (Fin.tail ⇑s)) = Fin.tail ⇑s := rfl
+  simp only [tail, update, this, coe_mk, equivFunOnFinite_symm_apply_toFun]
+  have : Fin.tail (Function.update (⇑s) i.succ y) a = Function.update (Fin.tail ⇑s) i y a := by
+    simp only [Fin.tail_update_succ]
+  convert this
```
Comment (quangvdao) [inline Mathlib/Data/Finsupp/Fin.lean:92]: Sorry for the delay.

@YaelDillies: the only new lemmas that use the existing definitions (`Finsupp.{tail/cons}`) are these two, which are about the relationship between `tail` and `update`. The rest are dependent on the new definitions (`Finsupp.{init/snoc/removeNth/insertNth}`).

Because of this, I'm not very sure if a dependent PR with two lemmas is of much use (though I'd be glad to do it if it helps).

Comment (YaelDillies) [reply Mathlib/Data/Finsupp/Fin.lean:92]: I think it's worth splitting anyway. Thanks 🙏

**Comment by YaelDillies** [comment]
Can you merge master to reduce the diff?

File: Mathlib/Algebra/BigOperators/Finsupp.lean [hunk 5]
```diff
@@ -534,11 +534,23 @@ lemma sum_cons [AddCommMonoid M] (n : ℕ) (σ : Fin n →₀ M) (i : M) :
...
   congr
 
+lemma sum_insertNth [AddCommMonoid M] {n : ℕ} (σ : Fin n →₀ M) (i : M) (p : Fin (n + 1)) :
+    (insertNth p i σ).sum (fun _ e ↦ e) = i + σ.sum (fun _ e ↦ e) := by
+  rw [sum_fintype _ _ (fun _ => rfl), sum_fintype _ _ (fun _ => rfl)]
+  exact Fin.sum_insertNth i σ p
+
+lemma sum_insertNth' [AddCommMonoid M] [AddCommMonoid N] {n : ℕ} (σ : Fin n →₀ M) (i : M)
+    (p : Fin (n + 1)) (f : Fin (n+1) → M → N) (h : ∀ x, f x 0 = 0) :
+    (sum (insertNth p i σ) f) = f p i + sum σ (Fin.removeNth p f) := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/BigOperators/Finsupp.lean:549]:
```suggestion
    sum (insertNth p i σ) f = f p i + sum σ (Fin.removeNth p f) := by
```

File: Mathlib/Algebra/BigOperators/Fin.lean [hunk 6]
```diff
@@ -96,6 +96,11 @@ theorem prod_snoc [CommMonoid β] {n : ℕ} (x : β) (f : Fin n → β) :
     (∏ i : Fin n.succ, (snoc f x : Fin n.succ → β) i) = (∏ i : Fin n, f i) * x := by
   simp [prod_univ_castSucc]
 
+@[to_additive (attr := simp)]
+theorem prod_insertNth [CommMonoid β] {n : ℕ} (x : β) (f : Fin n → β) (p : Fin (n + 1)) :
+    ∏ i : Fin (n + 1), insertNth p x f i = x * (∏ i : Fin n, f i) := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/BigOperators/Fin.lean:101]:
```suggestion
    ∏ i, insertNth p x f i = x * ∏ i, f i := by
```

File: Mathlib/Data/Fin/Basic.lean
Comment (YaelDillies) [inline Mathlib/Data/Fin/Basic.lean:1]: Looks out of scope for this PR

File: Mathlib/Data/Fin/Tuple/Basic.lean
Comment (YaelDillies) [inline Mathlib/Data/Fin/Tuple/Basic.lean:1]: Can you make this a separate PR?

File: Mathlib/Data/Fin/Basic.lean
Comment (quangvdao) [reply Mathlib/Data/Fin/Basic.lean:1]: New PR created #20770

File: Mathlib/Data/Fin/Tuple/Basic.lean
Comment (quangvdao) [reply Mathlib/Data/Fin/Tuple/Basic.lean:1]: Here it is #20771

File: Mathlib/Data/Finsupp/Fin.lean [hunk 7]
```diff
@@ -23,37 +27,104 @@ noncomputable section
...
+theorem removeNth_update : removeNth p (update s p y) = removeNth p s := by simp [removeNth]
+
+@[simp]
+theorem tail_apply : tail s i = s i.succ := rfl
+
+@[simp]
+theorem tail_update_zero : tail (update s 0 y) = tail s := by simp [tail]
+
+@[simp]
+theorem tail_update_succ : tail (update s i.succ y) = update (tail s) i y := by ext; simp [tail]
```
Comment (YaelDillies) [inline Mathlib/Data/Finsupp/Fin.lean:80]: Eg all these

File: Mathlib/Data/Finsupp/Fin.lean [hunk 8]
```diff
@@ -23,37 +27,104 @@ noncomputable section
...
+
+section Add
+
+variable (p : Fin (n + 1)) (y : M) (t : Fin (n + 1) →₀ M) (s : Fin n →₀ M) (i : Fin n)
+
+@[simp]
+theorem cons_zero : cons y s 0 = y := rfl
+
+@[simp]
+theorem cons_succ : cons y s i.succ = s i := rfl
```
Comment (YaelDillies) [inline Mathlib/Data/Finsupp/Fin.lean:105]: These

**Review by YaelDillies — COMMENTED** [review]
So the new definitions are `init`, `removeNth`, `snoc`, `insertNth`. There are still plenty of new lemmas that seemingly don't depend on those four definitions. Could you split those out to a separate PR?

PS: I don't know how you went about splitting your PRs off so far, but an easy way of implementing what I'm asking (which is just a restatement of https://github.com/leanprover-community/mathlib4/pull/19315#pullrequestreview-2486486693 btw) is to delete the four new definitions and iteratively remove everything that subsequently breaks.

File: Mathlib/Data/Finsupp/Fin.lean (hunk 8 above)
Comment (quangvdao) [reply Mathlib/Data/Finsupp/Fin.lean:102]: These are the same as before (`cons_zero`, `cons_succ`, `tail_cons`), modulo moving `rfl` to the same line, and restructuring of the lemmas (see my comment below).

**Comment by quangvdao** [comment]
For this PR, I added the four new definitions, and also restructure the theorems afterward to be about removing ops first (`init`, `snoc`, `removeNth`), then concatenating ops (`cons`, `snoc`, `insertNth`). This leads to some existing theorems being moved around and marked as new even though they are not.

**Comment by quangvdao** [comment]
I moved theorems around to roughly track the original ordering. The chore PR can come after, since the reordering only makes sense in relation to this PR?

File: Mathlib/Data/Finsupp/Fin.lean [hunk 9]
```diff
@@ -23,54 +27,147 @@ noncomputable section
...
+
+/-- `insertNth` for maps `Fin n →₀ M`. See `Fin.insertNth` for more details. -/
+def insertNth (p : Fin (n + 1)) (y : M) (s : Fin n →₀ M) : Fin (n + 1) →₀ M :=
+  Finsupp.equivFunOnFinite.symm (Fin.insertNth p y s : Fin (n + 1) → M)
+
+variable (p : Fin (n + 1)) (y : M) (t : Fin (n + 1) →₀ M) (s : Fin n →₀ M) (i : Fin n)
+
+-- TODO: move these old theorems to the appropriate new sections
+@[simp]
+theorem tail_apply : tail t i = t i.succ := rfl
```
Comment (YaelDillies) [inline Mathlib/Data/Finsupp/Fin.lean:60]:
```suggestion
theorem tail_apply : tail t i = t i.succ :=
  rfl
```

File: Mathlib/Data/Finsupp/Fin.lean [hunk 10]
```diff
@@ -23,54 +27,147 @@ noncomputable section
...
 
 @[simp]
-theorem cons_zero : cons y s 0 = y :=
-  rfl
+theorem cons_zero : cons y s 0 = y := rfl
```
Comment (YaelDillies) [inline Mathlib/Data/Finsupp/Fin.lean:63]:
```suggestion
theorem cons_zero : cons y s 0 = y :=
  rfl
```

File: Mathlib/Data/Finsupp/Fin.lean [hunk 11]
```diff
@@ -23,54 +27,147 @@ noncomputable section
...
 
 @[simp]
-theorem cons_succ : cons y s i.succ = s i :=
-  -- Porting note: was Fin.cons_succ _ _ _
-  rfl
+theorem cons_succ : cons y s i.succ = s i := rfl
```
Comment (YaelDillies) [inline Mathlib/Data/Finsupp/Fin.lean:66]:
```suggestion
theorem cons_succ : cons y s i.succ = s i :=
  -- Porting note: was Fin.cons_succ _ _ _
  rfl
```

File: Mathlib/Data/Finsupp/Fin.lean [hunk 12]
```diff
@@ -23,54 +27,147 @@ noncomputable section
...
 
 @[simp]
 theorem tail_cons : tail (cons y s) = s :=
   ext fun k => by simp only [tail_apply, cons_succ]
 
+section Remove
```
Comment (YaelDillies) [inline Mathlib/Data/Finsupp/Fin.lean:72]:
```suggestion
section RemoveNth
```

File: Mathlib/Data/Finsupp/Fin.lean [hunk 13]
```diff
@@ -79,22 +176,77 @@ theorem cons_ne_zero_of_left (h : y ≠ 0) : cons y s ≠ 0 := by
...
-  simp [← cons_succ a y s, c]
+  simp only [← cons_succ y s a, c, coe_zero, Pi.zero_apply]
 
 theorem cons_ne_zero_iff : cons y s ≠ 0 ↔ y ≠ 0 ∨ s ≠ 0 := by
   refine ⟨fun h => ?_, fun h => h.casesOn cons_ne_zero_of_left cons_ne_zero_of_right⟩
   refine imp_iff_not_or.1 fun h' c => h ?_
   rw [h', c, Finsupp.cons_zero_zero]
 
-lemma cons_support : (s.cons y).support ⊆ insert 0 (s.support.map (Fin.succEmb n)) := by
+theorem cons_support : (s.cons y).support ⊆ insert 0 (s.support.map (Fin.succEmb n)) := by
```
Comment (YaelDillies) [inline Mathlib/Data/Finsupp/Fin.lean:186]:
```suggestion
lemma cons_support : (s.cons y).support ⊆ insert 0 (s.support.map (Fin.succEmb n)) := by
```

**Review by YaelDillies — COMMENTED** [review]
I did think it would have made more sense to do the moves before, but I guess you already went through the effort of reverting them (although you could have used `git rebase` to make things easier for yourself)

File: Mathlib/Data/Finsupp/Fin.lean [hunk 14]
```diff
@@ -49,28 +72,105 @@ theorem cons_succ : cons y s i.succ = s i :=
...
+    Pi.zero_apply, cast_eq, dite_eq_ite, ite_self]
 
-variable {s} {y}
+@[simp]
+theorem insertNth_zero_zero : insertNth p 0 (0 : Fin n →₀ M) = 0 := by
+  ext a
+  simp only [insertNth, coe_zero, equivFunOnFinite_symm_apply_toFun, Fin.insertNth,
+    Fin.succAboveCases, eq_rec_constant, Pi.zero_apply, dite_eq_ite, ite_self]
+
+variable {y} {s}
```
Comment (YaelDillies) [inline Mathlib/Data/Finsupp/Fin.lean:173]: I see no reason to increase the diff here
```suggestion
variable {s} {y}
```

File: Mathlib/Data/Finsupp/Fin.lean [hunk 15]
```diff
@@ -79,7 +179,7 @@ theorem cons_ne_zero_of_left (h : y ≠ 0) : cons y s ≠ 0 := by
 theorem cons_ne_zero_of_right (h : s ≠ 0) : cons y s ≠ 0 := by
   contrapose! h with c
   ext a
-  simp [← cons_succ a y s, c]
+  simp only [← cons_succ y s a, c, coe_zero, Pi.zero_apply]
```
Comment (YaelDillies) [inline Mathlib/Data/Finsupp/Fin.lean:182]: Same here, can you revert?
```suggestion
  simp [← cons_succ a y s, c]
```

File: Mathlib/Data/Finsupp/Fin.lean [hunk 16]
```diff
@@ -93,8 +193,63 @@ lemma cons_support : (s.cons y).support ⊆ insert 0 (s.support.map (Fin.succEmb
...
+theorem snoc_ne_zero_of_left (h : s ≠ 0) : snoc s y ≠ 0 := by
+  contrapose! h with c
+  ext a
+  simp only [← snoc_castSucc y s a, c, coe_zero, Pi.zero_apply]
+
+theorem snoc_ne_zero_of_right (h : y ≠ 0) : snoc s y ≠ 0 := by
+  contrapose! h with c
+  rw [← snoc_last y s, c, Finsupp.coe_zero, Pi.zero_apply]
+
+theorem snoc_ne_zero_iff : snoc s y ≠ 0 ↔ s ≠ 0 ∨ y ≠ 0 := by
```
Comment (YaelDillies) [inline Mathlib/Data/Finsupp/Fin.lean:208]: The iff is implied
```suggestion
theorem snoc_ne_zero : snoc s y ≠ 0 ↔ s ≠ 0 ∨ y ≠ 0 := by
```

Comment (YaelDillies) [inline Mathlib/Data/Finsupp/Fin.lean:208]: Can you first prove `snoc_eq_zero`? The proof should be something like `by simp [funext_iff, Fin.forall_iff_succ]`

File: Mathlib/Data/Finsupp/Fin.lean [hunk 17]
```diff
@@ -93,8 +193,63 @@ lemma cons_support : (s.cons y).support ⊆ insert 0 (s.support.map (Fin.succEmb
...
+  simp only [← insertNth_apply_succAbove p y s a, c, coe_zero, Pi.zero_apply]
+
+theorem insertNth_ne_zero_iff : insertNth p y s ≠ 0 ↔ y ≠ 0 ∨ s ≠ 0 := by
+  refine ⟨fun h => ?_,
+    fun h => h.casesOn (insertNth_ne_zero_of_left p) (insertNth_ne_zero_of_right p)⟩
+  refine imp_iff_not_or.1 fun h' c => h ?_
+  rw [h', c, Finsupp.insertNth_zero_zero]
+
+theorem snoc_support :
+    (s.snoc y).support ⊆ insert (Fin.last n) (s.support.map Fin.castSuccEmb) := by
```
Comment (YaelDillies) [inline Mathlib/Data/Finsupp/Fin.lean:229]:
```suggestion
theorem snoc_support_subset :
    (s.snoc y).support ⊆ insert (.last n) (s.support.map Fin.castSuccEmb) := by
```
It's not an equality

File: Mathlib/Data/Finsupp/Fin.lean [hunk 18]
```diff
@@ -93,8 +193,63 @@ lemma cons_support : (s.cons y).support ⊆ insert 0 (s.support.map (Fin.succEmb
...
+  apply (Fin.eq_castSucc_or_eq_last i).symm.imp id (Exists.imp _)
+  rintro i rfl
+  simpa [Finsupp.mem_support_iff] using hi
+
+theorem snoc_left_injective : Injective (Finsupp.snoc · y : (Fin n →₀ M) → Fin (n + 1) →₀ M) :=
+  equivFunOnFinite.symm.injective.comp
+    ((Fin.snoc_left_injective (α := fun _ => M) y).comp DFunLike.coe_injective)
+
+theorem insertNth_support :
+    (insertNth p y s).support ⊆ insert p (s.support.map (Fin.succAboveEmb p)) := by
```
Comment (YaelDillies) [inline Mathlib/Data/Finsupp/Fin.lean:241]: Same here

File: Mathlib/Data/Finsupp/Fin.lean [hunk 19]
```diff
@@ -49,28 +72,105 @@ theorem cons_succ : cons y s i.succ = s i :=
...
+
 @[simp]
 theorem cons_zero_zero : cons 0 (0 : Fin n →₀ M) = 0 := by
   ext a
   by_cases c : a = 0
-  · simp [c]
+  · simp only [c, cons_zero, coe_zero, Pi.zero_apply]
   · rw [← Fin.succ_pred a c, cons_succ]
-    simp
+    simp only [coe_zero, Pi.zero_apply, Fin.succ_pred]
```
Comment (YaelDillies) [inline Mathlib/Data/Finsupp/Fin.lean:159]: Can you revert? Same above

File: Mathlib/Data/Finsupp/Fin.lean [hunk 20]
```diff
@@ -196,6 +201,11 @@ lemma cons_support_subset : (s.cons y).support ⊆ insert 0 (s.support.map (Fin.
 theorem cons_right_injective : Injective (Finsupp.cons y : (Fin n →₀ M) → Fin (n + 1) →₀ M) :=
   equivFunOnFinite.symm.injective.comp ((Fin.cons_right_injective _).comp DFunLike.coe_injective)
 
+theorem snoc_eq_zero : snoc s y = 0 ↔ s = 0 ∧ y = 0 := by
+  refine ⟨fun h => ⟨?_, ?_⟩, fun ⟨hs, hy⟩ => by simp [hs, hy]⟩
+  · exact Finsupp.ext fun i ↦ by simpa using Finsupp.ext_iff.mp h (Fin.castSucc i)
+  · simpa using Finsupp.ext_iff.mp h (Fin.last n)
```
Comment (YaelDillies) [inline Mathlib/Data/Finsupp/Fin.lean:205]: How does
```suggestion
theorem snoc_eq_zero : snoc s y = 0 ↔ s = 0 ∧ y = 0 := by
  simp |Finsupp.ext_iff, Fin.forall_iff_castSucc]
```
fare?

**Comment by kbuzzard** [comment]
@YaelDillies Thanks for your reviews so far. This is one of the PRs that has been on the queue for the longest; what are your thoughts on it currently?

File: Mathlib/Data/Finsupp/Fin.lean [hunk 21]
```diff
@@ -70,31 +158,105 @@ theorem cons_zero_zero : cons 0 (0 : Fin n →₀ M) = 0 := by
...
+theorem insertNth_ne_zero_of_right (h : s ≠ 0) : insertNth p y s ≠ 0 := by
+  contrapose! h with c
+  ext a
+  simp [← insertNth_apply_succAbove p y s a, c]
+
+theorem insertNth_ne_zero : insertNth p y s ≠ 0 ↔ y ≠ 0 ∨ s ≠ 0 := by
+  refine ⟨fun h => ?_,
+    fun h => h.casesOn (insertNth_ne_zero_of_left p) (insertNth_ne_zero_of_right p)⟩
+  refine imp_iff_not_or.1 fun h' c => h ?_
+  rw [h', c, Finsupp.insertNth_zero_zero]
```
Comment (YaelDillies) [inline Mathlib/Data/Finsupp/Fin.lean:233]:
```suggestion
theorem insertNth_ne_zero : insertNth p y s ≠ 0 ↔ y ≠ 0 ∨ s ≠ 0 := by
  simp [insertNth_eq_zero, -not_and, not_and_or]
```

**Review by YaelDillies — APPROVED** [review]
Sorry, it dropped off my radar. It looks good now.

maintainer delegate

File: Mathlib/Algebra/BigOperators/Finsupp.lean [hunk 22]
```diff
@@ -534,11 +534,23 @@ lemma sum_cons [AddCommMonoid M] (n : ℕ) (σ : Fin n →₀ M) (i : M) :
...
   congr
 
+lemma sum_insertNth [AddCommMonoid M] {n : ℕ} (σ : Fin n →₀ M) (i : M) (p : Fin (n + 1)) :
+    (insertNth p i σ).sum (fun _ e ↦ e) = i + σ.sum (fun _ e ↦ e) := by
+  rw [sum_fintype _ _ (fun _ => rfl), sum_fintype _ _ (fun _ => rfl)]
+  exact Fin.sum_insertNth i σ p
+
+lemma sum_insertNth' [AddCommMonoid M] [AddCommMonoid N] {n : ℕ} (σ : Fin n →₀ M) (i : M)
+    (p : Fin (n + 1)) (f : Fin (n+1) → M → N) (h : ∀ x, f x 0 = 0) :
+    sum (insertNth p i σ) f = f p i + sum σ (Fin.removeNth p f) := by
```
Comment (j-loreaux) [inline Mathlib/Algebra/BigOperators/Finsupp.lean:549]: Isn't the first one of these just the second in the special case that `f := fun _ ↦ id`? If so, I would rename the first one as `sum_insertNth_id`, put it after the other one, and rename the other one to `sum_insertNth`.

File: Mathlib/Data/Finsupp/Fin.lean [hunk 23]
```diff
@@ -23,16 +27,35 @@ noncomputable section
...
+def snoc (s : Fin n →₀ M) (y : M) : Fin (n + 1) →₀ M :=
+  Finsupp.equivFunOnFinite.symm (Fin.snoc s y : Fin (n + 1) → M)
+
+/-- `insertNth` for maps `Fin n →₀ M`. See `Fin.insertNth` for more details. -/
+def insertNth (p : Fin (n + 1)) (y : M) (s : Fin n →₀ M) : Fin (n + 1) →₀ M :=
+  Finsupp.equivFunOnFinite.symm (Fin.insertNth p y s : Fin (n + 1) → M)
+
+variable (p : Fin (n + 1)) (y : M) (t : Fin (n + 1) →₀ M) (s : Fin n →₀ M) (i : Fin n)
+
+-- TODO: move these old theorems to the appropriate new sections
```
Comment (j-loreaux) [inline Mathlib/Data/Finsupp/Fin.lean:58]: Can you please make a follow-up PR which does this moving and link to it here?

File: Mathlib/Data/Finsupp/Fin.lean [hunk 24]
```diff
@@ -23,16 +27,35 @@ noncomputable section
...
 
+/-- `snoc` for maps `Fin n →₀ M`. See `Fin.snoc` for more details. -/
+def snoc (s : Fin n →₀ M) (y : M) : Fin (n + 1) →₀ M :=
+  Finsupp.equivFunOnFinite.symm (Fin.snoc s y : Fin (n + 1) → M)
+
+/-- `insertNth` for maps `Fin n →₀ M`. See `Fin.insertNth` for more details. -/
+def insertNth (p : Fin (n + 1)) (y : M) (s : Fin n →₀ M) : Fin (n + 1) →₀ M :=
+  Finsupp.equivFunOnFinite.symm (Fin.insertNth p y s : Fin (n + 1) → M)
+
+variable (p : Fin (n + 1)) (y : M) (t : Fin (n + 1) →₀ M) (s : Fin n →₀ M) (i : Fin n)
```
Comment (j-loreaux) [inline Mathlib/Data/Finsupp/Fin.lean:56]: When you removed these variables from the other variable line above, you reordered them. Can you preserve the order, or at least explain why this order is preferable? This changed the variable order in `cons_succ` (and probably other lemmas) a few lines below this.

File: scripts/nolints_prime_decls.txt [hunk 25]
```diff
@@ -1615,6 +1615,7 @@ Finsupp.smul_single'
 Finsupp.subtypeDomain_eq_zero_iff'
 Finsupp.sum_apply'
 Finsupp.sum_cons'
+Finsupp.sum_insertNth'
```
Comment (j-loreaux) [inline scripts/nolints_prime_decls.txt:1618]: Please remove this. Either follow my suggestion above about renaming, or, if you disagree with that for some reason, add a docstring to this declaration.

**Review by j-loreaux — COMMENTED** [review]
Thanks! It looks mostly okay, but I think there are still a few minor issues.

**Comment by joneugster** [comment]
Mathlib has moved to PRs from forks. This PR is still from a branch of the main repository and will soon be closed! Please migrate the content to a fork and reopen a PR from there if you wish to do so. See [Zulip topic](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/all.20future.20PRs.20should.20be.20made.20from.20forks/with/624081853) for more instructions. Thank you for contributing to mathlib!
